US08580777B2
A. (R)-3-(4-Allyloxy-3-fluorophenyl)-2-tert-butoxycarbonylaminopropionic acid
1.18 g (60%, 29.39 mmol) of sodium hydride were added to a solution of 4.0 g (13.36 mmol) of (R)-2-tert-butoxycarbonylamino-3-(3-fluoro-4-hydroxyphenyl)propionic acid in 23 ml of DMF while stirring at 0° C., and the mixture was stirred at this temperature. After 15 min, 1.27 ml (1.78 g, 14.7 mmol) of allyl bromide were added, and stirring was continued for 1 h while the mixture reached RT. It was quenched with methanol and, after cooling, excess methanol was removed in a rotary evaporator. Dilution with diethyl ether was followed by acidification with 1N hydrochloric acid, and the aqueous phase was extracted twice more with diethyl ether, and the combined organic phases were washed with saturated sodium chloride solution, dried over NaSO4, filtered and concentrated. 4.50 g of a yellowish oil were obtained.

reactant | sodium hydride | 29.39 mmol, 1.18 g | [H-].[Na+]
reactant | (R)-2-tert-butoxycarbonylamino-3-(3-fluoro-4-hydroxyphenyl)propionic acid | 13.36 mmol, 4.0 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)O)F | C14H18FNO5
reactant | allyl bromide | 14.7 mmol, 1.27 ml, 1.78 g | C(C=C)Br | C3H5Br
solvent | DMF | 23 ml | CN(C)C=O | C3H7NO
product | (R)-3-(4-Allyloxy-3-fluorophenyl)-2-tert-butoxycarbonylaminopropionic acid | 4.50 g | C(C=C)OC1=C(C=C(C=C1)C[C@H](C(=O)O)NC(=O)OC(C)(C)C)F | C17H22FNO5
